US04666915
To a solution of N-(2-propoxyphenyl)guanidine (9.1 g) in dioxane (30 ml) is added dropwise diethyl ethoxymethylenemalonate (10.2 g), and the mixture is refluxed with stirring for 5 hours. After cooling, the precipitate is collected by filtration and recrystallized from a mixture of DMF and water to give ethyl 1,6-dihydro-6-oxo-2-(2-propoxyanilino)-5-pyrimidinecarboxylate (11.7 g). M.p. 198°-200° C.

reactant | N-(2-propoxyphenyl)guanidine | 9.1 g | C(CC)OC1=C(C=CC=C1)NC(=N)N | C10H15N3O
reactant | diethyl ethoxymethylenemalonate | 10.2 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | ethyl 1,6-dihydro-6-oxo-2-(2-propoxyanilino)-5-pyrimidinecarboxylate | 11.7 g | O=C1C(=CN=C(N1)NC1=C(C=CC=C1)OCCC)C(=O)OCC | C16H19N3O4
